US06545016B1
Triethylamine (0.78 mL, 5.6 mmol) was added to a solution of 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine (1.00 g, 4.3 mmol) in chloroform (50 mL). The solution was cooled in an ice bath and then isobutyryl chloride (0.49 mL, 4.7 mmol) was added. The reaction mixture was stirred for 15 minutes then the ice bath was removed and the reaction mixture was stirred for an additional 15 minutes. The reaction mixture was diluted with chloroform to a volume of 150 mL. Water (50 mL) was added then the pH was adjusted to 11 with solid potassium carbonate and then to pH 14 with 50% sodium hydroxide. The resulting precipitate was isolated by filtration and dried to provide 0.33 g of N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-2-methylpropanamide as a white solid, m.p. 178.1-178.8° C.

reactant | Triethylamine | 5.6 mmol, 0.78 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 4.3 mmol, 1.00 g | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C12H19N5
reactant | isobutyryl chloride | 4.7 mmol, 0.49 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-2-methylpropanamide | 0.33 g | NC1=NC(=C(C2=C1N=C(N2CCCNC(C(C)C)=O)C)C)C | C16H25N5O
